US05721359
Ceftiofur hydrochloride (17.1 g) is slurried for at least one hour at room temperature with 70 ml of tetrahydrofuran and 5.1 ml of water. To this slurry are added 8.6 g of PVP resin followed by 60 ml of tetrahydrofuran. After stirring for 45 minutes this slurry is filtered. The PVP resin is washed with two 31 ml portions of tetrahydrofuran. The filtrate is then added slowly over a period of about one hour to 515 ml of water at 45°-55° C. This slurry is stirred at 45°-55° C. for 30 minutes and filtered immediately at the end of the addition. The solids are washed with 70 ml of water and dried at 50° C. to give 13.5 g of crystalline ceftiofur free acid.

reactant | Ceftiofur hydrochloride | 17.1 g | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)O.Cl
reactant | water | 5.1 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | ceftiofur | 13.5 g | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)O | C19H17N5O7S3
